US06579872B1
N-[2-Methyl-5-(2-naphthoylamino)phenyl]-4-(2-ethoxyethoxy)benzamide
Using an analogous procedure to that described in Example 22, 2-naphthoyl chloride was reacted with N-(5-amino-2-methylphenyl)-4-(2-ethoxyethoxy)benzamide to give the title compound in 23% yield; Mass Spectrum: M+H 470.

reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | N-(5-amino-2-methylphenyl)-4-(2-ethoxyethoxy)benzamide | NC=1C=CC(=C(C1)NC(C1=CC=C(C=C1)OCCOCC)=O)C | C18H22N2O3
product | N-[2-Methyl-5-(2-naphthoylamino)phenyl]-4-(2-ethoxyethoxy)benzamide | 23% yield | CC1=C(C=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1)NC(C1=CC=C(C=C1)OCCOCC)=O | C29H28N2O4
